US07452893B2
A mixture of 3-azidocyclopentanone (Org. Lett., 1999, 1, 1107-1109) (3.25 g, 26.0 mmol), di-t-butyl dicarbonate (6.81 g, 31.2 mmol, 2.1 equiv.) and 10% palladium on carbon (0.43 g) in ethyl acetate (33 ml) was hydrogenated (hydrogen balloon) for 18 hours. The catalyst was removed by filtration through Celite. The filter cake was washed with ethyl acetate (3×10 ml) and the filtrate was concentrated under reduced pressure to give mixed oil and solid. The mixed oil and solid was triturated with ether: hexane (1:1, 12 ml) in an ice-bath. The resulting solid was filtered off and dried to give tert-butyl (3-oxocyclopentyl)carbamate (3.16 g, 61%), as a white solid. The mother liquor was chromatographed on silica gel, eluting with ethyl acetate:hexane (10:90 increasing to 50:50) to give additional tert-butyl (3-oxocyclopentyl)carbamate (0.40 g, 8%), as a white solid.

reactant | 3-azidocyclopentanone | 26.0 mmol, 3.25 g | N(=[N+]=[N-])C1CC(CC1)=O | C5H7N3O
reactant | di-t-butyl dicarbonate | 31.2 mmol, 6.81 g, 2.1 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.43 g | [Pd] | Pd
solvent | ethyl acetate | 33 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3-oxocyclopentyl)carbamate | 3.16 g, 61% | O=C1CC(CC1)NC(OC(C)(C)C)=O | C10H17NO3
